Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Scheduled admission for high dose cyclophosphamide
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with mantle cell lymphoma/leukemia with CNS 
involvement who is being admitted for high dose cytoxan prior to 
stem cell mobilization.  He feels well and has no complaints.

Review of Systems:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 

PAST ONCOLOGIC HISTORY:  
Mr. ___ was noted for an elevated WBC count in ___. 
 He was going to follow up in the early part of ___ but had 
changed his PCP and was seen in ___ with increasing white 
blood count of ~35,000.  CT imaging done on ___, the 
results of which are not available.  PET/CT imaging on ___ 
showed mild to moderate FDG uptake within lymphadenopathy of the 
neck, bilateral axillae, retroperitoneal and inguinal areas.  
The spleen was diffusely enlarged with mild diffuse FDG uptake. 
Initial peripheral blood smear noted medium sized lymphocytes, 
no smudge cells, some cells (~10%) with more open chromatin and 
nucleoli.  The cells were CD ___ + with CD1 translocation felt 
consistent with mantle cell lymphoma. Because
of the high white count, there was concern for more aggressive 
leukemic component and he was initiated on CHOP on ___ 
with the plan to receive Rituxan with Dr. ___ primary 
oncologist. Around the same time of this workup, Mr. ___ was 
seeing his ophthalmologist for routine eye care, but also with 
noted changes of vision of the left eye.  He has an 
accommodating lens and was found to  have an occlusion of the 
distal branch of a retinal vein on the left.  Follow up from 
___ ophthalmology reported Choroidal cellular infiltrate in 
the left eye concerning for CNS involvement from his Mantle Cell 
lymphoma/leukemia.  He was admitted urgently on ___ for MRI 
imaging and LP, followed by high dose Methotrexate.  MRI imaging 
on ___ showed focal right occipital lobar sulcal 
FLAIR-hyperintensity concerning for subarachnoid hemorrhage, 
although leptomeningeal involvement was possible.  Repeat MRI 
imaging on ___ showed the previous FLAIR-signal 
abnormality but as it is seen only on the post-contrast FLAIR 
images, it is felt consistent with leptomeningeal enhancement, 
concerning for focal lymphomatous
spread.  LP done on ___ did not have adequate cells for
evaluation.  He was seen by Dr. ___ Neuro-Oncology as
well as Dr. ___ ophthalmology.  He received an 
intraocular Avastin injection on ___, second one on 
___ and ___ injection with laser treatment on ___. 

Because Mr. ___ has probable leukemic/blastic variant of 
mantle cell lymphoma, he is continuing with aggressive 
treatment. The plan has been to alternate R-CHOP with High dose 
Ara-C vs. R-DHAP with high dose methotrexate between each 
cycle(if tolerated by creatinine but the high dose methotrexate 
has been on hold).  He has completed treatment as outlined below 
and is now proceeding with autologous stem cell transplantation. 
 He underwent repeat bone marrow aspirate and biopsy on 
___ which did not show any evidence of mantle cell 
lymphoma/leukemia. Repeat LP was negative.  Echocardiogram on 
___ with EF of > 60%.  Pulmonary Function tests on 
___ with FVC 108%, FEV1 104%, and DLCO 89%.  

TREATMENT HISTORY:
 * ___ - C1 CHOP
 * ___ - Admitted urgently due to choroidal cellular 
infiltrate in the left eye concerning for CNS involvement from 
his Mantle Cell lymphoma/leukemia.  MRI imaging consistent with 
this. 
 * ___ - High dose methotrexate, complicated by acute renal 
insufficiency with creatinine peaking at 2.2 felt most likely 
from precipitation in the renal tubules.  Creatinine has 
trending downward, stabilizing at 1.5. Discharged on ___.
 * ___ and ___ - Received Rituxan in divided doses 
with mild reaction. 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due to his age and renal function; received 2 doses on ___, 1 
dose on ___ and 1 dose on ___.  On Neupogen support during 
nadir, required transfusion of red cells and platelets. 
 * ___ - C2 RCHOP 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due to age and renal function.  High dose MTX on hold with renal 
insufficiency.
 * ___ - C3 RCHOP
 * Restaging scan shows interval improvement of lymphoma. MRI of 
head with resolution of previous enhancement.  
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 due 
to age and renal function. 
 * ___ - Repeat LP and IT Ara-C given

 
Past Medical History:
- Mantle cell lymphoma/leukemia, HPI as above
- Heterozygous for Factor V Leiden and low Protein S activity of
39%, repeated on ___. 
- Hypertension
- Prostate hypertrophy 
- Arthritis  
- Erectile dysfunction  
- Diverticulosis  
- Disc degeneration, lumbar  
- Sensorineural hearing loss with longstanding tinnitus
- s/p Appendectomy
- s/p Prostate biopsy (incisional)
- s/p Repair of deviated nasal septum

 
Social History:
___
Family History:
No lymphoma or leukemia in family. Mother had bone cancer, died 
at age ___ with also history of ___. Father died at age 
___ with h/o hypertension, stroke. One brother s/p CABG, stroke 
and ETOH use.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
GENERAL - Well-appearing ___ yo M who appears comfortable, 
appropriate and in NAD  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - RRR, normal S1/S2 without murmurs, rubs or gallops  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - awake, A&Ox3, CNs II-XII grossly intact, 

DISCHARGE PHYSICAL EXAM
VITALS - T 97.7 138/80 65 20 95%RA 
GENERAL - NAD, AAOx3, comfortable
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
LUNGS - CTAB, no w/r/r  
HEART - RRR, normal S1/S2 without murmurs, rubs or gallops  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - awake, A&Ox3
 
Pertinent Results:
ADMISSION LABS
___ 11:35AM   WBC-5.5 RBC-3.19* HGB-11.7* HCT-32.6* 
MCV-102* MCH-36.6* MCHC-35.9* RDW-19.6*
___ 11:35AM   NEUTS-80.0* LYMPHS-10.0* MONOS-8.0 EOS-1.5 
BASOS-0.5
___ 11:35AM   ALT(SGPT)-31 AST(SGOT)-27 LD(LDH)-172 ALK 
PHOS-59 TOT BILI-0.3
___ 11:35AM   ALBUMIN-4.5 CALCIUM-9.9 PHOSPHATE-4.4 
MAGNESIUM-2.2
___ 11:35AM   ___ PTT-33.1 ___
___ 11:35AM   UREA N-23* CREAT-1.2 SODIUM-143 POTASSIUM-4.3 
CHLORIDE-105 TOTAL CO2-30 ANION GAP-12
___ 06:01PM URINE  RBC-<1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 06:01PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR

DISCHARGE LABS

___ 06:30AM BLOOD WBC-5.7 RBC-2.94* Hgb-10.6* Hct-29.9* 
MCV-102* MCH-36.0* MCHC-35.4* RDW-18.7* Plt ___
___ 06:30AM BLOOD Neuts-95.7* Lymphs-3.0* Monos-1.0* 
Eos-0.2 Baso-0
___ 06:30AM BLOOD Glucose-136* UreaN-23* Creat-1.1 Na-138 
K-4.1 Cl-105 HCO3-22 AnGap-15
___ 06:30AM BLOOD ALT-26 AST-24 LD(LDH)-146 AlkPhos-50 
TotBili-0.3
___ 06:30AM BLOOD Albumin-3.9 Calcium-9.3 Phos-3.7 Mg-1.___ year old man with mantle cell lymphoma/leukemia with CNS 
involvement who was admitted for high dose cytoxan prior to stem 
cell mobilization.

ACTIVE ISSUES
# Mantle Cell Lymphoma: Received high dose cyclophosphamide in 
preparation for autologous stem cell transplant.  He tolerated 
this well.  He was discharged the following morning with plan 
for daily Neupogen starting ___ in preparation for stem 
cell collection.  Acyclovir and Bactrim were continued 
throughout admission.  

CHRONIC ISSUES
# Retinal vein occlusion:  Stable; followed by Dr. ___ 
ophthalmology.   

# Hypertension:  Not on any medications at this time. 

TRANSITIONAL ISSUES
None

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from webOMR.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Allopurinol ___ mg PO DAILY 
3. Lorazepam 0.5-1 mg PO Q8H:PRN insomnia or nausea 
4. Acyclovir 400 mg PO Q12H 
5. Omeprazole 20 mg PO DAILY PRN indigestion 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN bone pain 
7. Sulfameth/Trimethoprim DS 1 TAB PO MON, WEDS, FRI 
8. lactoperoxi-gluc oxid-pot thio *NF* 15 ml Mucous Membrane BID 


 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Allopurinol ___ mg PO DAILY 
3. Lorazepam 0.5-1 mg PO Q8H:PRN insomnia or nausea 
4. Omeprazole 20 mg PO DAILY PRN indigestion 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN bone pain 
6. Sulfameth/Trimethoprim DS 1 TAB PO MON, WEDS, FRI 
7. Dexamethasone 8 mg PO Q12H Duration: 2 Days 
RX *dexamethasone 4 mg 2 tablet(s) by mouth twice a day Disp #*6 
Tablet Refills:*0
8. lactoperoxi-gluc oxid-pot thio *NF* 15 ml Mucous Membrane BID 

9. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mantle cell leukemia/lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you while you were admitted at 
___.  You were admitted for high dose chemotherapy with 
Cytoxan in preparation for your upcoming transplant.  You 
tolerated the chemotherapy well and were discharged the next 
day.
 
Followup Instructions:
___